US06648954B2
Benzimidazolone Pigment
20 g of C.I. pigment yellow 151 having an average primary particle diameter of 80 nm (in which the content of metal ions having a valence of at least 2 was 270 ppm), 4 g of a commercially available dye C.I. acid yellow 23 and 110 g of deionized water were mixed, a 1% sodium hydroxide aqueous solution was added so as to adjust the pH of a mixture liquid to 9.0, and the mixture liquid was dispersed with a paint shaker in the presence of zirconia beads as media for approximately 5 hours, to obtain a water-based pigment dispersion. The obtained water-based pigment dispersion was diluted so as to have a concentration of 3% by weight, and the diluted water-based pigment dispersion was dropped to NO.2 filter paper, to show bleeding of the dye.

reactant | C.I. pigment yellow 151 | 20 g | CC(=O)C(C(=O)NC1=CC2=C(C=C1)NC(=O)N2)N=NC3=CC=CC=C3C(=O)O | C18H15N5O5
reactant | C.I. acid yellow 23 | C1=CC(=CC=C1N=NC2C(=NN(C2=O)C3=CC=C(C=C3)S(=O)(=O)[O-])C(=O)[O-])S(=O)(=O)[O-].[Na+].[Na+].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | water | 110 g | O | H2O
product | Benzimidazolone | N=1C(N=C2C1C=CC=C2)=O | C7H4N2O
